US04518596
8-Ethoxy-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 8-ethoxy-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 153°-155° C.) and piperazine.

reactant | 8-ethoxy-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine | C(C)OC1=NC=NC2=C1N=C(N=C2N2CCOCC2)Cl | C12H14ClN5O2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Ethoxy-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C)OC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C16H23N7O2
